US06528525B1
(a) Ethyl 3-(4-benzyloxyphenyl)-2-(4-chlorophenoxy)propionate
In a similar manner to that described in Reference example 35(b), a reaction was carried out using ethyl 3-(4-benzyloxyphenyl)-2-methanesulfonyloxypropionate (8.82 g), which is the product of Reference example 35(a), 4-chlorophenol (3.00 g) and potassium carbonate (6.44 g) and the reaction mixture was treated to afford the desired compound (5.99 g) as colorless crystals.

reactant | ethyl 3-(4-benzyloxyphenyl)-2-methanesulfonyloxypropionate | 8.82 g | C(C1=CC=CC=C1)OC1=CC=C(C=C1)CC(C(=O)OCC)OS(=O)(=O)C | C19H22O6S
reactant | 4-chlorophenol | 3.00 g | ClC1=CC=C(C=C1)O | C6H5ClO
reactant | potassium carbonate | 6.44 g | C([O-])([O-])=O.[K+].[K+]
product | Ethyl 3-(4-benzyloxyphenyl)-2-(4-chlorophenoxy)propionate | 5.99 g | C(C1=CC=CC=C1)OC1=CC=C(C=C1)CC(C(=O)OCC)OC1=CC=C(C=C1)Cl | C24H23ClO4
